US06448281B1
(S)-3-(3-Acetyl-4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic Acid Methyl Ester
To a solution of (S)-3-(3-acetyl-4-hydroxyphenyl)alanine methyl ester hydrochloride (1.50 g, 5.48 mmol), prepared according to the method of D. L. Boger et al. (J. Org. Chem. 1987, 52, 5283), in DMF (15 mL) was added di-tert-butyidicarbonate (1.20 g, 5,48 mmol) and DIEA (1.91 mL, 10.96 mmol). The solution was stirred under an argon atmosphere for 16 h. It was poured in a 0.5 N solution of KHSO4 (200 mL), extracted with EtOAc (2×75 mL) and the combined organic solutions were washed with brine (50 mL). The extract was dried (MgSO4) and the solvent evaporated to yield 1.80 g (97%) of the title compound.

reactant | (S)-3-(3-acetyl-4-hydroxyphenyl)alanine methyl ester hydrochloride | 5.48 mmol, 1.50 g | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)O)C(C)=O)=O
reactant | di-tert-butyidicarbonate | 5,48 mmol, 1.20 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIEA | 10.96 mmol, 1.91 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | KHSO4 | 200 mL | OS(=O)(=O)[O-].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (S)-3-(3-Acetyl-4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic Acid Methyl Ester | 1.80 g, 97% | COC([C@H](CC1=CC(=C(C=C1)O)C(C)=O)NC(=O)OC(C)(C)C)=O | C17H23NO6
